US07691854B2
4-[(Z)-2-(1,3-Benzothiazol-2-yl)-2-cyanoethenyl]benzonitrile
Benzothiazole-2-acetonitrile (750 mg, 4.3 mmol) and 4-cyanobenzaldehyde (564 mg, 4.3 mmol) are dissolved in ethanol (20 ml). Piperidine (11 mg, 0.13 mmol) is added, and the reaction is stirred at room temperature for 2 hours. A precipitate is formed, which is filtered and washed with additional ethanol (5 ml). The solid is dried in a vacuum desiccator overnight and used without further purification.

reactant | Benzothiazole-2-acetonitrile | 4.3 mmol, 750 mg | S1C(=NC2=C1C=CC=C2)CC#N | C9H6N2S
reactant | 4-cyanobenzaldehyde | 4.3 mmol, 564 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | Piperidine | 0.13 mmol, 11 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[(Z)-2-(1,3-Benzothiazol-2-yl)-2-cyanoethenyl]benzonitrile | S1C(=NC2=C1C=CC=C2)\C(=C/C2=CC=C(C#N)C=C2)\C#N | C17H9N3S
